US04983622
Thirty grams of benzyl 2-(1-benzoyl-5-methoxy-3-indolinyl)propionate were hydrogenated over palladium-on-carbon in ethanol to remove the benzyl ester group. 2-(1-Benzoyl-5-methoxy-3-indolinyl)propionic acid thus formed crystallized on cooling in the hydrogenation bomb and separated with the catalyst on filtration. The desired product was dissolved away from the catalyst by washing with hot ethanol. Ethanol was removed from the combined filtrate and washings by evaporation. The resulting residue was dissolved in tetrahydrofuran (THF). The THF solution was filtered and the THF removed from the filtrate in vacuo. The resulting residue was crystallized from about 500 ml. of ethanol; yield=21.2 g. of 2-(1-benzoyl-5-methoxy-3-indolinyl)propionic acid melting at 169°-70° C.

reactant | benzyl 2-(1-benzoyl-5-methoxy-3-indolinyl)propionate | Thirty grams | C(C1=CC=CC=C1)(=O)N1CC(C2=CC(=CC=C12)OC)C(C(=O)OCC1=CC=CC=C1)C | C26H25NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2-(1-Benzoyl-5-methoxy-3-indolinyl)propionic acid | C(C1=CC=CC=C1)(=O)N1CC(C2=CC(=CC=C12)OC)C(C(=O)O)C | C19H19NO4
